US07629494B2
After a solution of 3-chloro-2-hydroxybenzaldehyde (15.4 g, 98 mmol) in THF (100 ml) was cooled to 0° C., a solution of vinyl magnesium chloride in THF (1.9M, 126 ml, 240 mmol) was added thereto over 40 minutes. The mixture was gradually warmed to room temperature and stirred at room temperature for 14 hours. The mixture was cooled to 0° C. and a 20% aqueous ammonium chloride solution (200 ml) was added thereto at 0° C. The mixture was extracted with ethyl acetate. The organic layer was combined and successively washed with water and a saturated aqueous NaCl solution, followed by drying with anhydrous sodium sulfate. The solid was removed by filtration and the filtrate was concentrated to obtain a brown oil. This oil was purified by silica gel column chromatography (elution with hexane:ethyl acetate=5:1) to obtain 15.1 g of 2-chloro-6-(1-hydroxy-2-propenyl)phenol as a pale brown oil. 1H-NMR (500 MHz, CDCl3)•ppm: 7.28 (1H, dd, J=7.7 and 1.1 Hz), 7.16 (1H, s), 7.08 (1H, dd, J=7.7 and 1.1 Hz), 6.84 (1H, t, J=7.7 Hz), 6.12 (1H, ddd, J=17.0, 10.4, and 6.0 Hz), 5.44 (1H, d, J=4.4 Hz), 5.36 (1H, dt, J=17.0 and 1.1 Hz), 5.26 (1H, dt, J=10.4 and 1.1 Hz), 2.63 (1H, d, J=3.3 Hz).

reactant | 3-chloro-2-hydroxybenzaldehyde | 98 mmol, 15.4 g | ClC=1C(=C(C=O)C=CC1)O | C7H5ClO2
reactant | vinyl magnesium chloride | C(=C)[Mg]Cl
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 240 mmol, 1.9M, 126 ml | C1CCOC1 | C4H8O
product | 2-chloro-6-(1-hydroxy-2-propenyl)phenol | 15.1 g | ClC1=C(C(=CC=C1)C(C=C)O)O | C9H9ClO2
